US06552013B1
Synthesis of 2-(3,5-bis-(trifluoromethyl)phenyl)-1,2-epoxyethane
Following General Procedure EC and using 3,5-bis-(trifluoromethyl)benzaldehyde (Lancaster), the title compound was isolated after flash chromatography with 10:1 pentane/diethylether.

reactant | 3,5-bis-(trifluoromethyl)benzaldehyde | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
reactant | pentane diethylether | CCCCC.C(C)OCC
product | 2-(3,5-bis-(trifluoromethyl)phenyl)-1,2-epoxyethane | FC(C=1C=C(C=C(C1)C(F)(F)F)C1CO1)(F)F | C10H6F6O
